US07601844B2
Step 3: Ethyl 3-(2-(benzyloxymethyl)-2H-tetrazol-5-yl)benzoate
A solution of ethyl-3-bromobenzoate (0.47 g, 2.05 mmol) and 2-(benzyloxymethyl)-5-(tributylstannyl)-2H-tetrazole in toluene (20 mL) was degassed under vacuum and argon. To this solution was added copper (I) iodide (20 mg, 0.20 mmol) and tetrakis(triphenylphosphine)palladium(0) (115 mg, 0.10 mmol), and the mixture was again degassed under vacuum and argon. The flask and condenser were covered in foil to exclude light, and the reaction was heated at reflux temperature for 3 hours. After cooling to room temperature, the mixture was filtered and the filtrate was concentrated in-vacuo. The residue was purified over a 3.5×12 cm silica gel column, eluting with 5% then 10% then 15% ethyl acetate/hexanes to yield the title compound as a colorless oil which contained 5% of a tributyltin impurity. MS (ESI+)=339.22, (M+H)+. The oil was used as-is in the next step.

reactant | ethyl-3-bromobenzoate | 2.05 mmol, 0.47 g | C(C)OC(C1=CC(=CC=C1)Br)=O | C9H9BrO2
reactant | 2-(benzyloxymethyl)-5-(tributylstannyl)-2H-tetrazole | C(C1=CC=CC=C1)OCN1N=C(N=N1)[Sn](CCCC)(CCCC)CCCC
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | copper (I) iodide | 0.20 mmol, 20 mg | [Cu]I
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.10 mmol, 115 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Ethyl 3-(2-(benzyloxymethyl)-2H-tetrazol-5-yl)benzoate | C(C1=CC=CC=C1)OCN1N=C(N=N1)C=1C=C(C(=O)OCC)C=CC1 | C18H18N4O3
